US07910613B2
3-(2-Phenyl-[1,3]dithian-2-ylmethyl)-furan (Intermediate for 5-furan-3-yl-4-phenyl-thiazol-2-ylamine)
A stirred suspension of sodium tert-butoxide (5.16 g, 54 mmol) in dry hexane (120 mL) was added n-butyl lithium (34 mL, 51 mmol) at 0° C. and stirred for 1 h at 0° C., and then for 1 h at room temperature. The mixture was cooled to −78° C., and transferred to a preformed mixture of 2-phenyl-[1,3]dithiane (10.0 g, 51 mmol) dissolved in dry THF (120 mL) at −78° C., and n-butyl lithium (34 mL, 51 mmol) and kept for 15 min. A dark brown colored solution was observed. After stirring for 1 h at −78° C., 3-bromomethyl-furan (Danso-Danquah R. E. and Scott A. I. Tetrahedron, 1993, 49, 8195-8210; New D. G. et al, J. Org. Chem., 1996, 61, 1578-1598) (10.7 g, 66 mmol) was added via canula. After 30 min., the reaction mixture was quenched with water and warmed to ambient temperature. The reaction mixture was extracted with diethyl ether, and the organic extracts were dried over sodium sulfate and concentrated. The crude product was purified by flash column chromatography using 0.2-0.5% ethyl acetate in hexane as eluent. Yield: 5.6 g, 32%.

reactant | sodium tert-butoxide | 54 mmol, 5.16 g | CC(C)([O-])C.[Na+]
reactant | n-butyl lithium | 51 mmol, 34 mL | C(CCC)[Li]
reactant | 2-phenyl-[1,3]dithiane | 51 mmol, 10.0 g | C1(=CC=CC=C1)C1SCCCS1 | C10H12S2
reactant | n-butyl lithium | 51 mmol, 34 mL | C(CCC)[Li]
reactant | 3-bromomethyl-furan | 66 mmol, 10.7 g | BrCC1=COC=C1 | C5H5BrO
solvent | hexane | 120 mL | CCCCCC | C6H14
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 3-(2-Phenyl-[1,3]dithian-2-ylmethyl)-furan | C1(=CC=CC=C1)C1(SCCCS1)CC1=COC=C1 | C15H16OS2
